US08975443B2
Diethyl 2′,6′-dimethoxybiphenyl-2-ylphosphonate
To a 250-mL round-bottom flask equipped with a magnetic stir bar was added 2′-bromo-2,6-dimethoxybiphenyl (see Buchwald S L, Journal of the American Chemical Society 2005; 127:4685-4696) (7.02 g, 24.0 mmol, 1 equiv). Degassed, anhydrous tetrahydrofuran was added (80 mL) followed by N,N,N′,N′-tetramethylethylene-1,2-diamine (4.31 mL, 28.7 mmol, 1.2 equiv). The resulting solution was cooled to −78° C., and then n-butyllithium (11.5 mL, 28.7 mmol, 1.2 equiv, 2.5 M in hexanes) was added in a dropwise fashion. After the addition of 5 mL of n-butyllithium the reaction slurry could no longer be stirred. The reaction flask was warmed to 0° C. at which point the slurry became free-flowing. The remainder of the n-butyllithium (˜6.5 mL) was added over the course of 10 minutes. The reaction was stirred for 90 minutes at 0° C., and then the aryllithium intermediate was quenched with diethyl chlorophosphate (4.15 mL, 28.7 mmol, 1.2 equiv). The reaction was re-cooled to −78° C. and stirred for 1 hour, then the cooling bath was removed and the flask was warmed to room temperature. At that point, the reaction solution was diluted with pH 7 phosphate buffer (100 mL). The reaction mixture was worked up by separating the phases and washing the aqueous layer with ethyl acetate (4×60 mL). The combined organic fractions were then washed once with brine (150 mL), dried over sodium sulfate, filtered, and concentrated on a rotary evaporator. The crude product was purified by column chromatography (120-g column; gradient: 1.5 column volumes dichloromethane, ramp up to 88:12 dichloromethane:acetone over 10.5 column volumes, hold at 88:12 for 6 column volumes), the product was isolated as a white solid (5.49 g, 78 area % by HPLC, 65% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.07 (dd, J=14.1, 7.7 Hz, 1H), 7.57 (t, J=7.5 Hz, 1H), 7.46-7.37 (m, 1H), 7.30 (t, J=8.3 Hz, 1H), 7.24-7.18 (m, 1H), 6.60 (d, J=8.4 Hz, 2H), 3.98-3.77 (m, 4H), 3.70 (s, 6H), 1.17 (t, J=7.1 Hz, 6H). 31P NMR (CDCl3, 202 MHz) δ ppm 15.2 (s).

reactant | 2′-bromo-2,6-dimethoxybiphenyl | BrC1=C(C=CC=C1)C1=C(C=CC=C1OC)OC | C14H13BrO2
reactant | n-butyllithium | 28.7 mmol, 2.5 M, 11.5 mL, 1.2 equiv | C(CCC)[Li]
reactant | n-butyllithium | 5 mL | C(CCC)[Li]
reactant | n-butyllithium | ˜6.5 mL | C(CCC)[Li]
reactant | diethyl chlorophosphate | 28.7 mmol, 4.15 mL, 1.2 equiv | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
product | Diethyl 2′,6′-dimethoxybiphenyl-2-ylphosphonate | 65% yield | COC1=C(C(=CC=C1)OC)C1=C(C=CC=C1)P(OCC)(OCC)=O | C18H23O5P
